US07115645B2
6-[[5-[[[4-(Acetylamino)phenyl]sulfonyl]amino]-1,2-diphenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester
6-[(5-Amino-1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid isopropyl ester was reacted according to general operating instructions 13 with 4-(acetylamino)benzenesulfonic acid chloride.

reactant | 6-[(5-Amino-1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid isopropyl ester | C(C)(C)OC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)N)=O | C28H31N3O3
reactant | 4-(acetylamino)benzenesulfonic acid chloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
product | 6-[[5-[[[4-(Acetylamino)phenyl]sulfonyl]amino]-1,2-diphenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester | C(C)(C)OC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O)=O | C36H38N4O6S
